US07910592B2
Step B: 3′-[2-({(4S,5R)-5-[3,5-Bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-cyclopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylic acid
Methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-cyclopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate (70 mg, 0.100 mmol), lithium hydroxide monohydrate (21.02 mg, 0.501 mmol), 1,4-dioxane (1.670 mL) and water (1.670 mL) were stirred at room temperature. LCMS indicated about 8% conversion when reaction time was 1 h. LCMS trace of reaction aliquot at reaction time 18 h indicated completion of reaction. Reaction mixture was acidified by HCl (aq., 1N). Volatiles were removed under reduced pressure. The resulting pot residue was purified by a reverse-phase prep-HPLC (Kromasil 100-5C18, 100×21.1 mm) eluting with MeCN/water+0.1% TFA (10% to 100% organic in 10 min, hold 100% in 2 min). Related fractions were pooled and evaporated in vacuo to afford an aqueous mixture. The resulting aqueous mixture was extracted with EtOAc, washed with water, dried (Na2SO4), filtered and concentrated to afford a light yellow solid as the titled compound. LCMS calc.=684.21; found=685.96 (M+1)+. 1H NMR (500 MHz, CDCl3, 2:1 mixture of atropisomers): δ 8.02-7.90 (m, 3H), 7.85 (s, 1H), 7.70 (s, 2H), 7.50-7.44 (m, 1H), 7.37-7.28 (m, 1.5H), 7.16-7.09 (m, 2.5H), 5.70 (d, J=7 Hz, 0.67H), 5.63 (d, J=7.5 Hz, 0.33), 5.02 (d, J=15-5 Hz, 0.5H), 4.72 (d, J=15.5 Hz, 0.5H), 4.59 (d, J=16 Hz, 0.5H), 4.46 (d, J=16 Hz, 0.5H), 4.44-4.36 (m, 0.67H), 4.14-4.22 (m, 0.33H), 3.92-3.84 (m, 3H), 2.71 (br s, 0.67H), 2.61 (br s, 0.33H), 2.39 (s, 2H), 2.35 (s, 1H), 2.51-1.40 (m, 2H), 1.15-1.10 (m, 2H), 0.74 (d, J=6.5 Hz, 2H), 0.65 (d, J=5.5 Hz, 1H).

reactant | Methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-cyclopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate | 0.100 mmol, 70 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C1CC1)C)(F)F | C37H32F6N2O5
reactant | lithium hydroxide monohydrate | 0.501 mmol, 21.02 mg | O.[OH-].[Li+]
reactant | 1,4-dioxane | 1.670 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 1N | Cl | ClH
solvent | water | 1.670 mL | O | H2O
product | 3′-[2-({(4S,5R)-5-[3,5-Bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-cyclopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)C)C1CC1)C)(F)F | C36H30F6N2O5
